US07834190B2
Production of methyl (2S,3R)-3-propyl-2-oxiranecarboxylate
Methyl (2R,3R)-2-chloro-3-hydroxyhexanoate (0.9 g, 5 mmol), ethanol (10 ml) and potassium carbonate (2.1 g, 15 mmol) were mixed, and the mixture was stirred at 15° C. for 14 hours. Methyl tert-butyl ether (20 ml) was added. The mixture was washed with water (10 ml) three times. The organic layer was concentrated under reduced pressure to obtain the title compound (0.75 g, yield: 100%).

reactant | Methyl (2R,3R)-2-chloro-3-hydroxyhexanoate | 5 mmol, 0.9 g | Cl[C@@H](C(=O)OC)[C@@H](CCC)O | C7H13ClO3
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | potassium carbonate | 15 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | Methyl tert-butyl ether | 20 ml | C(C)(C)(C)OC | C5H12O
product | methyl (2S,3R)-3-propyl-2-oxiranecarboxylate | 0.75 g, yield: 100% | C(CC)[C@@H]1[C@H](O1)C(=O)OC | C7H12O3
